US07666857B2
2-(3,4-dimethylphenyl)-4-{[2-hydroxy-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-hydrazono}-5-methyl-2,4-dihydropyrazol-3-one choline
2-(3,4-Dimethylphenyl)-4-{[2-hydroxy-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-hydrazono}-5-methyl-2,4-dihydropyrazol-3-one, 1.1 g of crude orange solid, in 7 mL of ethyl acetate and 12 mL of ethanol (190 proof) was stirred at approximately 40° C. To this suspension 2.5 ml of choline hydroxide (1N) solution in methanol was added resulting in a dark orange brown solution. Water (1 ml) was added to the dark solution and the mixture stirred at approx. 35° C. for approx. 3 hours. During this time, precipitation was seen in the solution. The suspension was stirred for another 72 hours at approx. 20° C., and then the solid was isolated by filtration and dried at approx. 40° C. over 12 hours to yield 1.2 gram (87% yield) of the title compound as a crystalline solid with a light orange color.

reactant | 2-(3,4-Dimethylphenyl)-4-{[2-hydroxy-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-hydrazono}-5-methyl-2,4-dihydropyrazol-3-one | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=NNC=1C(=C(C=CC1)C1=CC(=CC=C1)C1=NN=NN1)O)C | C25H22N8O2
reactant | ethanol | 12 mL | C(C)O | C2H6O
reactant | choline hydroxide | 1N, 2.5 ml | [OH-].OCC[N+](C)(C)C
reactant | Water | 1 ml | O | H2O
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 2-(3,4-dimethylphenyl)-4-{[2-hydroxy-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-hydrazono}-5-methyl-2,4-dihydropyrazol-3-one choline | 1.2 gram, 87% yield | OCC[N+](C)(C)C.CC=1C=C(C=CC1C)N1N=C(C(C1=O)=NNC=1C(=C(C=CC1)C1=CC(=CC=C1)C1=NN=NN1)O)C | InChI=1S/C25H22N8O2.C5H14NO/c1-14-10-11-19(12-15(14)2)33-25(35)22(16(3)30-33)27-26-21-9-5-8-20(23(21)34)17-6-4-7-18(13-17)24-28-31-32-29-24;1-6(2,3)4-5-7/h4-13,26,34H,1-3H3,(H,28,29,31,32);7H,4-5H2,1-3H3/q;+1
